Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
PNA
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Patient is ___ woman with a history of hypertension and 
asthma who presents with malaise, generalized weakness, and 
fever. She states she has been feeling weak since she had a 
dental procedure one month ago and subsequently aspirated a good 
amount of blood. She developed a fever earlier in the week but 
had no localized symptoms. She was seen at ___ urgent 
care on ___ and was diagnosed with a pneumonia, currently 
on day 3 of levofloxacin. Patient represented to the ED due to 
ongoing fevers (101-103) and general malaise. Since starting 
levofloxacin, she has had diarrhea and several episodes of 
emesis. She denies abdominal pain or urinary symptoms. She 
denies shortness of breath or chest pain. She now is coughing up 
yellow sputum. No recent hospital exposures.  
 In the ED, initial VS were T 97.8, HR 102, BP 140/84, RR 16, 
SaO2 97% RA.  
 Labs showed WBC 13.2 (83.1% PMNs), Na 135, K 3.5, Cl 94, HCO3 
25, BUN 13, Cr 0.9, lactate 1.7.  
 Imaging: CXR showed LUL opacity consistent with LUL/linguar 
pneumonia, right apical parenchymal opacity (?overlapping 
shadows).  
 Patient received 1L NS and 600 mg IV clindamycin.  
 Transfer VS were T 98.2, HR 92, BP 143/71, RR 20, SaO2 100% RA. 
 
 Decision was made to admit to medicine for further management 
of pneumonia.  
 On arrival to the floor, patient feels generally unwell. She 
denies shortness of breath. She has been coughing up yellow 
sputum.  
 REVIEW OF SYSTEMS:  
 Denies chest pain, abdominal pain, hemoptysis, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 All other 10-system review negative in detail.  
 
Past Medical History:
Asthma  
Hypertension 
 
Social History:
___
Family History:
Mother: COLON CANCER, ALZHEIMER'S DISEASE  
Father: ALCOHOLISM  
Aunt: INTESTINAL CANCER  
Aunt: BREAST CANCER  
 
Physical Exam:
ADMIT EXAM
========
 VS: T 98.0, HR 97, BP 169/81, RR 18, SaO2 100% RA.  
 GENERAL: AAOx3, unwell-appearing but NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: Supple  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: Breathing comfortably, lungs CTAB, no wheezing, rales, or 
rhonchi  
 ABDOMEN: +BS, nondistended, soft, nontender  
 EXTREMITIES: No edema, moving all 4 extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII grossly intact  
 SKIN: Warm and well perfused, no rashes, no splinter 
hemorrhages

DISCHARGE EXAM
===========
VS: 98.7 137/74 82 16 97 RA   
GENERAL: AAOx3, NAD  
HEENT: NCAT, anicteric sclera, MMM  
CARDIAC: RRR, S1/S2, mild ___ sys murmur, no gallops, or rubs  
LUNG: ctabl
ABDOMEN: +BS, nondistended, soft, nontender  
EXTREMITIES: No ___ edema, wwp   
NEURO: grossly non-focal  
SKIN: no rashes
 
Pertinent Results:
ADMIT LABS
========
___ 10:50PM BLOOD WBC-13.2* RBC-4.58 Hgb-14.1 Hct-42.6 
MCV-93 MCH-30.8 MCHC-33.1 RDW-13.1 RDWSD-44.5 Plt ___
___ 10:50PM BLOOD Neuts-83.1* Lymphs-7.9* Monos-7.9 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-11.00* AbsLymp-1.04* 
AbsMono-1.05* AbsEos-0.05 AbsBaso-0.05
___ 06:52AM BLOOD ___ PTT-29.2 ___
___ 10:50PM BLOOD Glucose-110* UreaN-13 Creat-0.9 Na-135 
K-3.5 Cl-94* HCO3-25 AnGap-20
___ 06:52AM BLOOD Calcium-8.1* Phos-2.2* Mg-1.9
___ 11:12PM BLOOD Lactate-1.7
___ 07:50AM URINE Blood-SM  Nitrite-NEG Protein-100 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 07:50AM URINE RBC-8* WBC-10* Bacteri-FEW Yeast-NONE 
Epi-7 TransE-<1

DISCHARGE LABS
===========
___ 06:30AM BLOOD WBC-6.9 RBC-4.03 Hgb-12.1 Hct-38.1 MCV-95 
MCH-30.0 MCHC-31.8* RDW-13.1 RDWSD-45.9 Plt ___
___ 06:30AM BLOOD ___ PTT-28.9 ___
___ 06:30AM BLOOD Glucose-107* UreaN-7 Creat-0.7 Na-139 
K-4.2 Cl-103 HCO3-25 AnGap-15
___ 06:30AM BLOOD ALT-82* AST-87* LD(LDH)-230 AlkPhos-161* 
TotBili-0.5

IMAGING
======
CXR ___ 
Interval development of parenchymal opacities in the left lung 
suspicious for pneumonia.  Followup suggested after treatment to 
document resolution.

Abd U/S ___
Normal US appearance of the liver. No acute intraabdominal 
process.

MICRO
=====
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 1:10 pm
      URINE      TAKEN SPECIMEN ___ @ 1310. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 7:50 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:56 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 10:50 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 12:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
___ woman with a history of hypertension and asthma who 
presents with malaise, generalized weakness, and fever. 
Failed/unable to tolerate levaquin. Started on IV CTX and Z-pack 
for CAP, transitioned to PO Cefpodoxime with improvement in Sx. 
Found to have elevated LFTs over admission, none prior in 
system. Abd U/S wnl.

# Pneumonia/CAP: CXR showed LUL/lingular pneumonia and right 
apical opacity (potentially overlapping shadows), concerning for 
multifocal pneumonia. Possible aspiration pneumonia given report 
of aspiration of blood one month ago after dental procedure. 
Patient with leukocytosis, fever, and productive cough. She did 
not improve on two days of levofloxacin, possibly due to 
nausea/vomiting of pills rather than treatment failure. No 
hospitalizations to suggest need for HCAP coverage. Started on 
Ceftriaxone/azithromycin, transitioned to PO cefpodoxime/zithro 
for ___ total course. Given albuterol, guaifenesin prn cough  

# Fever/leukocytosis: Most likely secondary to pneumonia. DDx 
also included gastroenteritis given nausea/vomiting and diarrhea 
(though most likely side effect from levofloxacin) and 
endocarditis (given recent dental procedure, known heart murmur 
w/o previous valvular Dz on prior TTE but no sequelae on exam). 
Pt only had one Duke's minor criteria for prior fever. BCx w/o 
any growth. 

CHRONIC ISSUES
========== 
# Asthma:  Continued home prn albuterol  
# Hypertension: Continued home lisinopril  

TRANSITIONAL ISSUES
===================
-started on cefpodoxime 200mg bid to finish 7d course on ___. 
also started on Z-pack to finish 5d course on ___
-found to have elevated lfts over admission, abd u/s wnl. would 
recommend rechecking lfts, consider hepatitis serologies
-pt had around 1 mo of malaise associated with dental procedure, 
no stigmata of endocarditis and pt w/prior known heart murmur. 
please monitor going forward

CODE: Full (presumed) 
EMERGENCY CONTACT HCP: ___ (ex-wife) 
___, alternate HCP: ___ (son) 
___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 4 Doses 
please take until ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H 
please take until ___ 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
4.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
CAP

SECONDARY
=========
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to ___ after ___ were found 
to have a pneumonia at urgent care that wasn't getting better on 
oral antibiotics. We started ___ on IV antibiotics and your 
infection got better. Your liver blood tests were mildly 
abnormal, so we checked an ultrasound of your abdomen which 
showed ###.

Please follow up closely with your pcp to ensure that ___ are 
feeling better, as we were concerned that ___ have been feeling 
ill for some time.

It was a pleasure taking care of ___!

Your ___ Team

It was a pleasure taking care of ___!

Your ___ Team
 
Followup Instructions:
___